US06277858B1
2-n-Butyl-3-n-propyl-3H-thieno[2,3-d]pyrimidin-4-one
In a sulfonation flask, 0.85 g of 2-(1-n-butyl-1-methoxymethyleneamino)-thiophene-3-carboxylicacid propylamide is dissolved in 20 ml of absolute THF and 0.15 g of a ca. 55% NaH dispersion is added in small portions. The mixture is stirred for 15 minutes at room temperature and 1 hour at reflux temperature. Then the solvent is removed in a water jet vacuum and the residue taken up in ethylacetate. The organic phase is washed twice with water and after drying of the organic phase with sodium sulfate, the solvent is removed in a water jet vacuum. The resulting crude product (yleld: 0.8 g of 2-n-butyl-3-n-propyl-3H-thieno[2,3-d]-pyrimidine-4-one in the form of a brown liquid) can be used without further purification for the halogenation step.

reactant | NaH | [H-].[Na+]
reactant | 2-(1-n-butyl-1-methoxymethyleneamino)-thiophene-3-carboxylicacid propylamide | 0.85 g | C(CC)NC(=O)C1=C(SC=C1)N=C(OC)CCCC | C14H22N2O2S
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-n-Butyl-3-n-propyl-3H-thieno[2,3-d]pyrimidin-4-one | C(CCC)C=1N(C(C2=C(N1)SC=C2)=O)CCC | C13H18N2OS
